US09056859B2
A mixture of (5-bromo-3,4-dihydro-1H-isochromen-1-yl)methanol (390 mg, 1.6 mmol), Zn(CN)2 (113 mg, 0.960 mmol), TMEDA (0.37 mg), xantphose (4.6 mg) and Pd(dba)3 (2.6 mg) in anhydrous DMF was microwaved 10 min at 100° C. The reaction was quenched with water and extracted with EtOAc. The organic layer was washed with brine, dried and concentrated. The residue was purified with prep-HPLC to give 1-(hydroxymethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile. 1H-NMR (400 MHz, CDCl3) δ 7.49˜7.50 (m, 1H), 7.24˜7.48 (m, 2H), 4.76˜4.78 (in, 1H), 4.17˜4.22 (m, 1H), 3.76˜3.95 (m, 3H), 3.01˜3.09 (m, 1H), 2.89˜2.95 (m, 1H).

reactant | (5-bromo-3,4-dihydro-1H-isochromen-1-yl)methanol | 1.6 mmol, 390 mg | BrC1=C2CCOC(C2=CC=C1)CO | C10H11BrO2
reactant | TMEDA | 0.37 mg | CN(C)CCN(C)C | C6H16N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.960 mmol, 113 mg | [C-]#N.[C-]#N.[Zn+2]
product | 1-(hydroxymethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile | OCC1OCCC=2C(=CC=CC12)C#N | C11H11NO2
